US04055664
4-(4-biphenylyl)-N,N-diethyl-butylamine was prepared by the procedure of Example IV except that 4-(4-biphenylyl)-N,N-diethyl-butyramide (b.p. 181.3° C. -- 10.05 mm) is also convertible to a non-toxic acid addition salt by reaction with a suitable acid such as hydrochloric acid. A yield of 63.8% was obtained having an m.p. of 133.4° C.

reactant | 4-(4-biphenylyl)-N,N-diethyl-butyramide | C1(=CC=C(C=C1)CCCC(=O)N(CC)CC)C1=CC=CC=C1 | C20H25NO
reactant | hydrochloric acid | Cl | ClH
product | 4-(4-biphenylyl)-N,N-diethyl-butylamine | yield of 63.8% | C1(=CC=C(C=C1)CCCCN(CC)CC)C1=CC=CC=C1 | C20H27N
